* SPICE3 file created from zip.ext - technology: scmos

.option scale=0.01u


*Adjust CMOSP widths to further reduce the rise time.


M1 x clk VDD VDD cmosp
 +w=600 l=200 ad=300000 pd=2200 as=1.32e+06 ps=8000

M2 x C y Gnd cmosn
+w=900 l=200 ad=450000 pd=2800 as=0 ps=0


M3 y D Z Gnd cmosn 
+w=900 l=200 ad=0 pd=0 as=0 ps=0

M4 y E Z Gnd cmosn 
+w=900 l=200 ad=0 pd=0 as=990000 ps=5800

M5 Z clk GND Gnd cmosn 
+w=900 l=200 ad=1.35e+06 pd=8400 as=0 ps=0


M6 p clk_bar VDD VDD cmosp 
+w=1200 l=200 ad=0 pd=0 as=0 ps=0

M7 q x p Vdd cmosp 
+w=1200 l=200 ad=600000 pd=3400 as=1.44e+06 ps=7200


M8 q clk_bar GND Gnd cmosn
+w=400 l=200 ad=200000 pd=1800 as=0 ps=0


M9 out clk VDD VDD cmosp
+w=600 l=200 ad=300000 pd=2200 as=0 ps=0

M10 out q s Gnd cmosn 
+w=500 l=200 ad=750000 pd=5000 as=1.2e+06 ps=7800


M11 out A r Gnd cmosn 
+w=900 l=200 ad=0 pd=0 as=900000 ps=5600


M12 r B s Gnd cmosn 
+ w=900 l=200 ad=0 pd=0 as=0 ps=0

M13 s clk GND Gnd cmosn
+w=900 l=200 ad=0 pd=0 as=1.1e+06 ps=7400




C0 clk VDD 14.09fF
C1 r Gnd 3.57fF
C2 GND Gnd 20.68fF
C3 q Gnd 6.22fF
C4 Z Gnd 5.50fF
C5 out Gnd 10.15fF
C6 p Gnd 4.51fF
C7 x Gnd 10.40fF
C8 clk Gnd 34.09fF
C9 clk_bar Gnd 21.11fF






V1 Vdd 0 dc 3.3
Va A 0 dc 3.3
Vb B 0 dc 3.3
Vc C 0 dc 3.3
Vd D 0 dc 3.3
Ve E 0 dc 3.3


* Load Capacitor
C10 x gnd 100fF
C11 q gnd 100fF
C12 out gnd 100fF


.include models.txt

*TRANSIENT ANALYSIS with pulse inputs
VCk  clk   0  PULSE (0 3.3 2NS 0 0 50NS 100NS)

VCk1  clk_bar   0  PULSE (3.3 0 2NS 0 0 50NS 100NS)

.tran 1ns 500ns 0nS

.control
run
plot V(clk)  10+V(x) 15+V(out) 20+V(q)

.endc
.end


