*Souhardya Mondal, 213070092

*Adjust CMOSP widths to further reduce the rise time.



*source/drain area:
*as = ad = 2W × Lmin
*and source/drain perimeter:
*ps = pd = 2 × (W + 2Lmin)

*zipper logic style simulation

M1 x clk Vdd Vdd  cmosp
+ L=2U W=6U AD = 24P AS = 24P PD =20U PS =20U

M2 x C y gnd cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U


M3 y D z gnd cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U


M4 y E z gnd cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U


M5 z clk gnd gnd cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U




M6 p clk_bar Vdd Vdd  cmosp
+ L=2U W=12U AD = 48P AS = 48P PD =32U PS =32U


M7 q x p Vdd cmosp
+ L=2U W=12U AD = 48P AS = 48P PD =32U PS =32U



M8 q clk_bar gnd gnd cmosn
+ L=2U W=4U AD = 16P AS = 16P PD = 16U PS = 16U




M9 out clk Vdd Vdd cmosp
+ L=2U W=6U AD = 24P AS = 24P PD = 20U PS =20U


M10 out q s gnd cmosn
+ L=2U W=5U AD = 20P AS = 20P PD = 18U PS = 18U



M11 out A r gnd  cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U



M12 r B s gnd cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U



M13 s clk gnd gnd cmosn
+ L=2U W=9U AD = 36P AS = 36P PD = 26U PS = 26U













V1 Vdd 0 dc 3.3
Va A 0 dc 0
Vb B 0 dc 3.3
Vc C 0 dc 0
Vd D 0 dc 3.3
Ve E 0 dc 3.3


* Load Capacitor
C1 x gnd 100fF
C2 q gnd 100fF
C3 out gnd 100fF


.include models.txt

*TRANSIENT ANALYSIS with pulse inputs
VCk  clk   0  PULSE (0 3.3 2NS 0 0 50NS 100NS)

VCk1  clk_bar   0  PULSE (3.3 0 2NS 0 0 50NS 100NS)

.tran 1ns 500ns 0nS

.control
run
plot V(clk)  10+V(x) 15+V(out) 20+V(q)

.endc
.end
